US03997516
3. Preparation of H-Thr-Lys-Arg-OH
Lys, 1.00(1); Arg. 1.03(1), Thr, 1.00(1)

reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Thr | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
product | H-Thr-Lys-Arg-OH | N[C@@H]([C@H](O)C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C16H33N7O5
